US07491720B2
(2) Synthesis of 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((3-(methoxymethyl)thiazol-2(3H)-ylidene)amino)isonicotinonitrile
A mixture of 2.04 g of 4-bromo-6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-(3-(methoxymethyl)-thiazol-2(3H)-ylidene)pyridin-2-amine, 379 mg of zinc cyanide, 266 mg of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene, 133 mg of bis(dibenzylideneacetone)palladium(0), 92 mg of zinc and 9.2 ml of N,N-dimethylacetamide was stirred at 140° C. for 3 hours. The resulting reaction mixture was diluted with ethyl acetate, and then an insoluble matter was filtered off using Celite. The filtrate was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated. The residue was purified by a silica gel column chromatography (eluent: hexane to hexane/ethyl acetate=3/1) to give the title compound.

reactant | 4-bromo-6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-(3-(methoxymethyl)-thiazol-2(3H)-ylidene)pyridin-2-amine | 2.04 g | BrC1=CC(=NC(=C1)CO[Si](C)(C)C(C)(C)C)N=C1SC=CN1COC | C17H26BrN3O2SSi
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 266 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | N,N-dimethylacetamide | 9.2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 379 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(dibenzylideneacetone)palladium(0) | 133 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | zinc | 92 mg | [Zn] | Zn
product | 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((3-(methoxymethyl)thiazol-2(3H)-ylidene)amino)isonicotinonitrile | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C#N)C=C(N1)N=C1SC=CN1COC | C18H26N4O2SSi
